US04153563
Methallyl Disulfide - Benzotriazole Addition Products
Benzotriazole (11.9 g.), methallyl disulfide (8.7 g.) and p-toluenesulfonic acid (0.1 g.) in about 75 ml. of xylene were heated, forming a clear homogeneous solution. This solution was heated for more than 12 hr. at 145° C. while small aliquot samples were withdrawn periodically and examined by gas chromatography. The appearance of addition products peaks was observed concurrently with the consumption of the reactants, benzotriazole and methallyl disulfide. Xylene solvent was removed by rotary evaporation. The residue was distilled in a Kugelrohr apparatus at less than 0.1 mm. of mercury pressure. A small amount of distillate product (1 g.) was collected; the residue mixture of products was a dark amber very viscous oil. The infrared spectrum of the reaction product mixture showed the doublet absorption (1385, 1375 cm-1) and the substantial disappearance of the strong terminal vinyl C--H deformation band (900 cm -1) both indicating addition to the olefin groups of the reactant methallyl disulfide.

reactant | Benzotriazole | 11.9 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | methallyl disulfide | 8.7 g | C(C(C)=C)SSCC(C)=C | C8H14S2
reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | Methallyl Disulfide Benzotriazole | C(C(C)=C)SSCC(C)=C.N1N=NC2=C1C=CC=C2 | InChI=1S/C8H14S2.C6H5N3/c1-7(2)5-9-10-6-8(3)4;1-2-4-6-5(3-1)7-9-8-6/h1,3,5-6H2,2,4H3;1-4H,(H,7,8,9)
